US07667041B2
Synthesis of (E)-1-[(1R,2S)-2-hydroxyindan-1-yl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one
To an ethanol (2.0 mL) solution of (E)-5-[(1R,2S)-2-hydroxyindan-1-ylamino]-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ethyl ester (120 mg), 2N sodium hydroxide solution (1.0 mL) was added. After carrying out heat-refluxing of the reaction solution for 30 minutes and confirming disappearance of the starting materials, water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate=1:1→ethyl acetate→ethyl acetate:ethanol=10:1), and 78.9 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | ethanol | 2.0 mL | C(C)O | C2H6O
reactant | (E)-5-[(1R,2S)-2-hydroxyindan-1-ylamino]-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ethyl ester | 120 mg | C(C)OC(/C(/CCCN[C@H]1[C@H](CC2=CC=CC=C12)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C28H33N3O4
reactant | sodium hydroxide | 2N, 1.0 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-1-[(1R,2S)-2-hydroxyindan-1-yl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | 78.9 mg | O[C@@H]1[C@@H](C2=CC=CC=C2C1)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H27N3O3
